US06423713B1
A solution of 3-(4-chlorophenyl)-4-(4-pyridyl)-5-(4-piperazinyl)pyrazole (200 mg; 0.54 mmol; prepared as set forth in Example A-169), methanesulfonyl chloride (75 mg) and 4-dimethylaminopyridine (5 mg) in pyridine was stirred at room temperature for 3 hours. The solvent was removed in vacuo and the residue was treated with water. The resultant crystalline solid was filtered, air dried and recrystallized from methanol and water to give 118 mg (37%) of 1-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-4-(methylsulfonyl)piperazine, monohydrate, m.p. 245-248° C. Anal. Calc'd. for C19H20ClN5SO2.H2O: C, 52.35; H, 5.09; N, 16.07. Found: C, 52.18; H, 5.31; N, 16.00.

reactant | 3-(4-chlorophenyl)-4-(4-pyridyl)-5-(4-piperazinyl)pyrazole | ClC1=CC=C(C=C1)C1=NNC(=C1C1=CC=NC=C1)N1CCNCC1 | C18H18ClN5
reactant | methanesulfonyl chloride | 75 mg | CS(=O)(=O)Cl | CH3ClO2S
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-4-(methylsulfonyl)piperazine, monohydrate | 118 mg, 37% | O.ClC1=CC=C(C=C1)C1=C(C(=NN1)N1CCN(CC1)S(=O)(=O)C)C1=CC=NC=C1 | InChI=1S/C19H20ClN5O2S.H2O/c1-28(26,27)25-12-10-24(11-13-25)19-17(14-6-8-21-9-7-14)18(22-23-19)15-2-4-16(20)5-3-15;/h2-9H,10-13H2,1H3,(H,22,23);1H2
